US09108936B2
c) Synthesis of 2-hydroxy-6-methyl-4-morpholin-4-yl-benzoic acid ethyl ester
To a solution of 2-methoxy-6-methyl-4-morpholin-4-yl-benzoic acid ethyl ester (7.0 g, 25.1 mmol) in dichloromethane (370 ml) is added neat boron tribromide (5.94 ml, 62.7 mmol) at −78° C. The temperature is slowly raised to room temperature over a period of 30 min and stirred for 1 h at room temperature. The reaction mixture is poured onto cold water, extracted with dichloromethane (3×30 ml). Combined organic layers are washed with brine (30 ml), dried over sodium sulfate and evaporated to dryness. The crude material is used in the next step without further purification.

reactant | 2-methoxy-6-methyl-4-morpholin-4-yl-benzoic acid ethyl ester | 25.1 mmol, 7.0 g | C(C)OC(C1=C(C=C(C=C1C)N1CCOCC1)OC)=O | C15H21NO4
reactant | boron tribromide | 62.7 mmol, 5.94 ml | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 370 ml | ClCCl | CH2Cl2
product | 2-hydroxy-6-methyl-4-morpholin-4-yl-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1C)N1CCOCC1)O)=O | C14H19NO4
